US08304371B2
To a solution of {2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]phenyl}methanol (0.95 g) and triethylamine (0.41 g) in dichloromethane was added methanesulfonyl chloride (0.35 g) gradually, and the mixture was stirred for 2 hours at room temperature. The reaction liquor was washed with water and a saturated aqueous brine, subsequently dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, to obtain 2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]-benzyl methanesulfonate (1.0 g).

reactant | {2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]phenyl}methanol | 0.95 g | BrC1=C(C=CC(=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)CO | C18H13BrCl2F3NO
reactant | triethylamine | 0.41 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.35 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]-benzyl methanesulfonate | 1.0 g | CS(=O)(=O)OCC1=C(C=C(C=C1)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)Br | C19H15BrCl2F3NO3S
